data/rgd1/barriers/filtered.csv
rxn,smiles,ea
MR_547233_0,[C:1]([C:2]([O:6][H:10])=[O:7])([C:3]([C:5](=[O:9])[H:14])=[O:8])([N:4]([H:12])[H:13])[H:11]>>[C:1](\[C:3]([C:5]([C:2]([O:6][H:10])=[O:7])([O:9][H:13])[H:14])=[O:8])(=[N:4]/[H:12])[H:11],46.74184749998204
MR_415338_2,[C:1]([C:2]([H:11])([H:12])[H:13])([C:3]([N:6]=[C:5]([H:14])[H:15])=[O:7])([N:4]([H:9])[H:10])[H:8]>>[C:1]([C:2]([H:11])([H:12])[H:13])([C:3](=[O:7])[H:8])([N:4]([H:9])[H:10])[N:6]=[C:5]([H:14])[H:15],42.641135000026935
MR_156542_1,[C:1](/[C:3]([N:2]([O:4][H:7])[H:9])=[N:6]\[O:5][H:8])([H:10])([H:11])[H:12]>>[C:1]([C:3]1([O:4][H:7])[N:2]([H:9])[N:6]1[O:5][H:8])([H:10])([H:11])[H:12],58.50998249994717
MR_243962_1,[C:1](/[C:4]([C:3]([C:2]([O:5][H:9])=[O:7])=[O:8])=[N:6]/[H:10])([H:11])([H:12])[H:13]>>[C:1](/[C:4]([C:3]([C:2]([O:5][H:9])=[O:7])=[O:8])=[N:6]/[H:10])([H:11])([H:12])[H:13],58.875187499988186
MR_200117_1,[C:1]([c:3]1[c:2]([H:9])[n:4]([H:10])[n:5]1[H:7])(=[O:6])[H:8]>>[C:1]([C:3](/[C:2](=[N:4]\[H:10])[H:9])=[N:5]/[H:7])(=[O:6])[H:8],36.03105000002259
MR_179316_0,[C:1]([C:2]([C:5]([C:3]([N:6]([H:11])[H:12])([H:15])[H:16])=[O:8])([H:13])[H:14])([C:4]([H:17])([H:18])[H:19])([O:7][H:9])[H:10]>>[C:1]([C:2]([C:5]([C:3]([N:6]([H:11])[H:12])([H:15])[H:16])([C:4]([H:17])([H:18])[H:19])[O:8][H:9])([H:13])[H:14])(=[O:7])[H:10],71.4314624999966
MR_677763_0,[C:1]([C:3](=[C:4](/[C:2]([H:16])([H:17])[H:18])[N:6]([H:11])[H:12])/[N:7]=[N:8]/[N:5]([H:9])[H:10])([H:13])([H:14])[H:15]>>[C:1]([C:3]1=[N:7][N:8]([N:5]([H:9])[H:10])[C:4]1([C:2]([H:16])([H:17])[H:18])[N:6]([H:11])[H:12])([H:13])([H:14])[H:15],32.91676750000249
MR_327480_1,[C:1]([C:2](/[C:3](=[N:5]/[H:9])[H:14])([H:12])[H:13])([C:4]([H:17])([H:18])[H:19])([C:6]([N:7]([H:10])[H:11])([H:15])[H:16])[H:8]>>[C:1]([C:2]([C:3]([N:5]([H:9])[H:10])([H:14])[H:15])([H:12])[H:13])([C:4]([H:17])([H:18])[H:19])(/[C:6](=[N:7]/[H:11])[H:16])[H:8],47.687489999984365
MR_635080_1,[C:1](/[C:2]([N:4]([H:12])[H:13])=[N:8]\[H:16])(/[C:3]([N:5]([H:14])[H:15])=[N:9]\[H:17])([O:6][H:10])[O:7][H:11]>>[C:1](=[C:2]([N:4]([H:12])[H:13])[N:8](/[C:3]([N:5]([H:14])[H:15])=[N:9]\[H:17])[H:16])([O:6][H:10])[O:7][H:11],64.68960250000393
MR_128402_1,[C:1]([O:4][H:7])([O:5][C:2]([N:3]([H:8])[H:9])=[O:6])([H:10])[H:11]>>[C:1]([O:4][H:7])([O:5]/[C:2](=[N:3]\[H:9])[O:6][H:8])([H:10])[H:11],56.67956500000287
MR_279389_1,[C:1]([C:3](/[C:2]([N:5]([H:12])[H:13])=[N:8]\[N:4]([H:10])[H:11])=[C:6](\[O:7][H:9])[H:14])([H:15])([H:16])[H:17]>>[C:1]([C:3]1=[C:2]([N:5]([H:12])[H:13])[N:8]([N:4]([H:10])[H:11])[C@@:6]1([O:7][H:9])[H:14])([H:15])([H:16])[H:17],47.92343000003072
MR_419508_1,[C:1]([N:2]([C:3]([O:5][N:4]([H:9])[H:10])=[O:7])[O:6][H:8])([H:11])([H:12])[H:13]>>[C:1]([N:2]([O:5][C:3]([N:4]([H:9])[H:10])=[O:7])[O:6][H:8])([H:11])([H:12])[H:13],68.58700500004431
MR_640853_2,[C:1]1([O:7][H:9])([O:8][H:10])[C:5]([C:3]([H:15])([H:16])[H:17])([N:4]([C:2]([H:12])([H:13])[H:14])[H:11])[C:6]1([H:18])[H:19]>>[C:1]([N:4]([C:2]([H:12])([H:13])[H:14])[H:11])([C:5]([C:3]([H:15])([H:16])[H:17])=[C:6]([H:18])[H:19])([O:7][H:9])[O:8][H:10],65.88059750002884
MR_34252_0,[C:1]([C:2]([H:11])([H:12])[H:13])([C:3]([H:10])([H:14])[H:15])([N:6]([C:4]([H:16])([H:17])[H:18])[H:9])[C:7]([C:5]([H:19])([H:20])[H:21])=[O:8]>>[C:1]1([C:2]([H:11])([H:12])[H:13])([C:3]([H:10])([H:14])[H:15])[C:7]([C:5]([H:19])([H:20])[H:21])([N:6]([C:4]([H:16])([H:17])[H:18])[H:9])[O:8]1,65.69297500000317
MR_68428_0,[C:1]([C:4](=[O:7])[H:11])(/[C:5](=[C:2](\[N:3]([H:9])[H:10])[O:6][H:8])[H:12])([H:13])[H:14]>>[C:1]1([H:13])([H:14])[C:4](=[O:7])[C@:5]1([C@@:2]([N:3]([H:9])[H:10])([O:6][H:8])[H:11])[H:12],71.08194500002298
MR_116434_1,[C:1]([C:3]([C:6](/[C:5](=[C:2](\[N:4]([H:11])[H:12])[O:7][H:9])[H:13])[H:14])[O:8][H:10])([H:15])([H:16])[H:17]>>[C:1]([C:3]1([O:8][H:10])[C:2]([N:4]([H:11])[H:12])([O:7][H:9])[C:5]([H:13])=[C:6]1[H:14])([H:15])([H:16])[H:17],41.16274500004991
MR_476285_0,[C:1](\[C:2]([H:17])([H:18])[H:19])(=[C:8](/[C:5]([C:3]([H:20])([H:21])[H:22])([C:4]([N:6]([H:12])[H:13])=[O:10])[N:7]([H:14])[H:15])[H:16])[O:9][H:11]>>[C:1]([C:2]([H:17])([H:18])[H:19])([C:4]([N:6]([H:12])[H:13])=[O:10])(/[C:8](=[C:5](/[C:3]([H:20])([H:21])[H:22])[N:7]([H:14])[H:15])[H:16])[O:9][H:11],62.6759549999872
MR_398363_0,[C:1]1([O:5][C:3]([N:4]([H:10])[H:11])=[O:8])([O:7][H:9])[C:2]([H:12])([H:13])[O:6]1>>[C:1]([C:2]([O:6][C:3]([N:4]([H:10])[H:11])=[O:8])([H:12])[H:13])(=[O:5])[O:7][H:9],36.861232499959726
MR_69913_0,[C:1](/[C:2]([N:3]([H:8])[H:9])=[C:6](\[N:4]([H:10])[H:11])[H:15])([C:5](=[O:7])[H:12])([H:13])[H:14]>>[C:1](=[C:2]([N:3]([H:8])[H:9])[C@:6]([N:4]([H:10])[H:11])([C:5](=[O:7])[H:12])[H:15])([H:13])[H:14],47.52120249997617
MR_379330_0,[C:1]1([C:3]([C:5]([O:8][H:10])=[O:9])([N:6]([H:14])[H:15])[H:13])([H:11])[C:2]([C:4]([H:16])([H:17])[H:18])([H:12])[O:7]1>>[C@@:1]1([C@@:3]([C:5]([O:8][H:10])=[O:9])([N:6]([H:14])[H:15])[H:13])([H:11])[C@@:2]([C:4]([H:16])([H:17])[H:18])([H:12])[O:7]1,59.736745000024456
